US05457225
In an atmosphere of argon, 10 ml of dichloromethane and 2.5 ml (5.0 mmol) of the above titanium dichlorodiiso-propoxide-dichloromethane solution were placed in a schlenk tube, and cooled to -25° C. with stirring. To the dichloromethane solution, 0.656 g (5.0 mmol) of E-cinnamaldehyde and 0.77 ml (10 mmol) of diketene were added, and were vigorously stirred at -25° C. over 69 hours to obtain a reaction mixture. To the reaction mixture, 1.5 ml of isopropyl alcohol was added, and was vigorously stirred at -25° C. over 1 hour. The reaction mixture was added to a mixed solution of 25 ml of 1N HCl and 25 ml of dichloromethane, and vigorously stirred at room temperature over 2 hours to give a solution. The solution was extracted with three portions of 5 ml of dichloromethane. The dichloromethane portions were combined, and dried by adding anhydrous magnesium sulfate. The solvent of the solution was removed by distillation in vacuo to obtain a concentrated solution. The concentrated solution was placed on a silica gel column and eluted with a mixture of hexane and ethyl acetate (hexane:ethyl acetate=7:3) to give 0.188 g of isopropyl E-5-hydroxy-3-oxo-7-phenyl-6-heptenoate (yield: 14% based on the amount of E-cinnamaldehyde).

reactant | E-cinnamaldehyde | 5.0 mmol, 0.656 g | C(\C=C\C1=CC=CC=C1)=O | C9H8O
reactant | diketene | 10 mmol, 0.77 ml | C=C1CC(=O)O1 | C4H4O2
reactant | HCl | 1N, 25 ml | Cl | ClH
reactant | isopropyl alcohol | 1.5 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | isopropyl E-5-hydroxy-3-oxo-7-phenyl-6-heptenoate | 0.188 g, yield: 14% | OC(CC(CC(=O)OC(C)C)=O)\C=C\C1=CC=CC=C1 | C16H20O4
